datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cc(C[NH3+])c([O-:10])c(C[NH3+])c1.SCC[N+:21](Cc1ccccc1)(Cc1ccccc1)[H:20]>>Cc1cc(C[NH3+])c([O:10][H:20])c(C[NH3+])c1.SCC[N:21](Cc1ccccc1)Cc1ccccc1 10=20;20,21=21",
"[H:20][NH+:21]1CCOCC1.[CH-:10]1C2=C(C=CC=C2)OC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)OC1=O.C1COCC[NH:21]1 10=20;20,21=21",
"CCC[N:10](CCC)CC(=O)Nc1c(C)cccc1C.c1ccc(S/C(c2ccccc2)=[NH+:21]/[H:20])cc1>>CCC[N+:10](CCC)(CC(=O)Nc1c(C)cccc1C)[H:20].c1ccc(SC(c2ccccc2)=[NH:21])cc1 10=20;20,21=21",
"CCC(C)(C)[NH:10]C(C)(C)CC.Cc1cc([O-])ccc1[O:21][H:20]>>CCC(C)(C)[NH+:10](C(C)(C)CC)[H:20].Cc1cc([O-])ccc1[O-:21] 10=20;20,21=21",
"OCCOCC[NH2:10].[O-]c1nc2nc[nH]c2c([O-])[n+:21]1[H:20]>>OCCOCC[NH2+:10][H:20].[O-]c1nc2nc[nH]c2c([O-])[n:21]1 10=20;20,21=21",
"CCCCCCCCCC[N:10](CC(C)O)CC(C)O.Oc1ccc(/C=N/c2ncc3c(n2)[nH]c[n+:21]3[H:20])cc1>>CCCCCCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20].Oc1ccc(/C=N/c2ncc3c(n2)[nH]c[n:21]3)cc1 10=20;20,21=21",
"COc1ccc(-c2nc3ncncc3[n:21]2[H:20])c(OC)c1.C[N:10]1CSCC1C(=O)[O-]>>COc1ccc(-c2nc3ncncc3[n-:21]2)c(OC)c1.C[N+:10]1([H:20])CSCC1C(=O)[O-] 10=20;20,21=21",
"CN(C)S(=O)(=O)c1ccc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])cc1.COC(O)(C(F)(F)F)[O-:10]>>CN(C)S(=O)(=O)c1ccc([N-:21]S(=O)(=O)c2ccc(N)cc2)cc1.COC(O)(C(F)(F)F)[O:10][H:20] 10=20;20,21=21",
"CC(C)[C@@H]1CC[C@@H](C)C[C@@H]1[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)[C@@H]1CC[C@@H](C)C[C@@H]1[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1cnccc1C(O)[O:21][H:20].O=[N+]([O-])/C=C/c1cccc([O-:10])c1>>COc1cnccc1C(O)[O-:21].O=[N+]([O-])/C=C/c1cccc([O:10][H:20])c1 10=20;20,21=21",
"CCc1ccc(OC)c(C(=O)NCC2CCC[N:10]2CC)c1[O-].COC(=O)C1=CN([NH2+:21][H:20])C(=O)C(Br)=C1>>CCc1ccc(OC)c(C(=O)NCC2CCC[N+:10]2(CC)[H:20])c1[O-].COC(=O)C1=CN([NH2:21])C(=O)C(Br)=C1 10=20;20,21=21",
"CCC[NH:10]CC(=O)[O-].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CCC[NH+:10](CC(=O)[O-])[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[NH:10]c1ccccc1.O=S(CCCc1ccccc1)[O:21][H:20]>>C[NH+:10](c1ccccc1)[H:20].O=S(CCCc1ccccc1)[O-:21] 10=20;20,21=21",
"Cc1cc2ccccc2c(C(=O)[O-:10])c1C.NC1=C/C(=[NH+:21]\[H:20])c2ccccc2C1=O>>Cc1cc2ccccc2c(C(=O)[O:10][H:20])c1C.NC1=CC(=[NH:21])c2ccccc2C1=O 10=20;20,21=21",
"CCOCCn1c(CN2CCC[N+:21](CCCCn3cc(C(=O)[O-])cn3)([H:20])CC2)nc2ccccc21.c1ccc2c(c1)ccc1nc[n-:10]c12>>CCOCCn1c(CN2CCC[N:21](CCCCn3cc(C(=O)[O-])cn3)CC2)nc2ccccc21.c1ccc2c(c1)ccc1nc[n:10]([H:20])c12 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.Cc1ccc(C2CCC[NH:10]2)cc1>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.Cc1ccc(C2CCC[NH+:10]2[H:20])cc1 10=20;20,21=21",
"CN1C=C/C(=[NH+:21]/[H:20])c2ccccc21.O=C1C2CCC2C(=O)[N-:10]1>>CN1C=CC(=[NH:21])c2ccccc21.O=C1C2CCC2C(=O)[N:10]1[H:20] 10=20;20,21=21",
"CCC#CC#CC(=O)[O:21][H:20].OC(C[S-])C[S-:10]>>CCC#CC#CC(=O)[O-:21].OC(C[S-])C[S:10][H:20] 10=20;20,21=21",
"C#CCC(=O)[O-:10].CCCNc1nc[n+:21]([H:20])c2c1cnn2C>>C#CCC(=O)[O:10][H:20].CCCNc1nc[n:21]c2c1cnn2C 10=20;20,21=21",
"CN(C)c1ccc(/C=C/c2n[n+:21]([H:20])nn2-c2ccccc2)cc1.O=C(/C=C/c1c[nH]c[nH+]1)[O-:10]>>CN(C)c1ccc(/C=C/c2n[n:21]nn2-c2ccccc2)cc1.O=C(/C=C/c1c[nH]c[nH+]1)[O:10][H:20] 10=20;20,21=21",
"CNc1nccc[n+:21]1[H:20].NNC(=O)c1cc[n:10]cc1>>CNc1nccc[n:21]1.NNC(=O)c1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CC(C)(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>CC(C)(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"O=[N+]([O-])c1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1.OCCNC(=S)[S-:10]>>O=[N+]([O-])c1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1.OCCNC(=S)[S:10][H:20] 10=20;20,21=21",
"Cc1nc2c(n1C)[N-:10]C(=O)NC2=O.O=C([O-])CC(=O)/C=N/[O:21][H:20]>>Cc1nc2c(n1C)[N:10]([H:20])C(=O)NC2=O.O=C([O-])CC(=O)/C=N/[O-:21] 10=20;20,21=21",
"C1CNC[NH:10]C1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C1CNC[NH+:10]([H:20])C1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCCCCCCCCC[NH:10]CCC(=O)[O-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCCCCCCCC[NH+:10](CCC(=O)[O-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCO/C([O-])=N/c1ncnc2nc[n:21]([H:20])c12.c1cncc(CC[NH2:10])c1>>CCO/C([O-])=N/c1ncnc2nc[n-:21]c12.c1cncc(CC[NH2+:10][H:20])c1 10=20;20,21=21",
"CC([Se-])C[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC([Se-])C[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCC[NH:10]CCC#N.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCC[NH+:10](CCC#N)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C)[NH+:21](CCc1ccc([O-])cc1)[H:20].CC1(C)CC2CC[N:10]1C(=O)C2>>CC(C)[NH:21]CCc1ccc([O-])cc1.CC1(C)CC2CC[N+:10]1([H:20])C(=O)C2 10=20;20,21=21",
"CC(C)Nc1ncnc2c1cn[n-:10]2.O=C(/C=C/c1ccccc1O)[O:21][H:20]>>CC(C)Nc1ncnc2c1cn[n:10]2[H:20].O=C(/C=C/c1ccccc1O)[O-:21] 10=20;20,21=21",
"CCCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:21][H:20].NC1=[NH+][C@H](C(=O)[O-:10])[C@@H]([C@H](O)C[NH3+])N1>>CCCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:21].NC1=[NH+][C@H](C(=O)[O:10][H:20])[C@@H]([C@H](O)C[NH3+])N1 10=20;20,21=21",
